US06942980B1
Ethyl 6-iodonicotinoate
To a suspension of 6-iodonicotinic acid (23.38 g, 94.20 mmol) in dichloromethane (100 ml) was added a solution of 13-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (19.86 g, 103.6 mmol) in dichloromethane (250 ml). To this mixture was added ethanol (12.40 g, 269.27 mmol) followed by dimethylaminopyridine (1.15 g, 9.41 mmol). The mixture was heated at 50° C. for 24.5 hours, concentrated in vacuo, and diluted with water (200 ml) then extracted with ethyl ether (550 ml). The combined organic phases were washed with saturated aqueous NaCl, dried (MgSO4) and concentrated to a yellow solid. Purification by flash chromatography (silica, 10% EtOAc-hexane) afforded the title compound as white needles: mp 48-49° C.; 1H NMR (CDCl3): δ 8.94 (1H, d, J=2.1 Hz), 7.91 (1H, dd, J=2.1, 8.2 Hz), 7.85 (1H, d, J=8.2 Hz), 4.41 (2H, q, J=7.1 Hz), 1.41 (3H, t, J=7.1 Hz).

reactant | 6-iodonicotinic acid | 94.20 mmol, 23.38 g | IC1=NC=C(C(=O)O)C=C1 | C6H4INO2
reactant | 3-ethylcarbodiimide hydrochloride | 103.6 mmol, 19.86 g | Cl.C(C)N=C=N
reactant | ethanol | 269.27 mmol, 12.40 g | C(C)O | C2H6O
reactant | dimethylaminopyridine | 9.41 mmol, 1.15 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | Ethyl 6-iodonicotinoate | IC1=NC=C(C(=O)OCC)C=C1 | C8H8INO2
